US07285558B2
(b) Resin bound 3-[5-methyl-2-(1-naphthylmethyl)-4,6-dioxo-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-d]pyrimidin-3-yl]benzoic acid
1-naphthaldehyde (1-methyl-2,6-dioxo-1,2,3,6-tetrahydropyrimidin-4-yl)hydrazone (2.12 g) and triethylamine (0.8 ml) was added to a suspension of Resin bound 3-formylbenzoic acid in dimethylformamide (15 ml), and the mixture was shaken at 90° C. for 16 hours. The resin was filtered and washed (3 times) DMF, CH2Cl2, MeOH, CH2Cl2, and dried in vacuum to give the subtitle compound.

reactant | 1-naphthaldehyde (1-methyl-2,6-dioxo-1,2,3,6-tetrahydropyrimidin-4-yl)hydrazone | 2.12 g | CN1C(NC(=CC1=O)NN=CC1=CC=CC2=CC=CC=C12)=O | C16H14N4O2
reactant | triethylamine | 0.8 ml | C(C)N(CC)CC | C6H15N
reactant | 3-formylbenzoic acid | C(=O)C=1C=C(C(=O)O)C=CC1 | C8H6O3
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 3-[5-methyl-2-(1-naphthylmethyl)-4,6-dioxo-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-d]pyrimidin-3-yl]benzoic acid | CN1C(NC=2C(C1=O)=C(N(N2)CC2=CC=CC1=CC=CC=C21)C=2C=C(C(=O)O)C=CC2)=O | C24H18N4O4
